US07495054B2
3-Hydroxy-1,5-dithiacyclooctane
A first solution of 1,3-propanedithiol (10.82 grams, 0.10 moles, commercially available from Alfa Aesar; Ward Hill, Mass.) and ethanol (45 milliliters) was placed in a 60-milliliter syringe. A second solution of epichlorohydrin (9.25 grams, 0.10 moles) and ethanol (45 milliliters) was placed in a second 60-milliliter syringe. Both solutions were slowly added dropwise to a mixture of sodium hydroxide (8.80 grams, 0.22 moles) and ethanol (250 milliliters) at room temperature over 10 hours. After stirring for an additional 8 hours, the reaction mixture was concentrated under vacuum, and then diluted with ethyl acetate (200 milliliters). The organic phase was washed with water (200 milliliters) and saturated sodium chloride in water (100 milliliters) and dried over magnesium sulfate. The solvent was removed under reduced pressure to give the crude product that was purified by column chromatography over silica gel using a mixture of ethyl acetate in hexane (30/70 parts by weight). The product was isolated as an oil. (6.99 grams, 43% yield).

reactant | 1,3-propanedithiol | C(CCS)S | C3H8S2
reactant | epichlorohydrin | 0.10 moles, 9.25 grams | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 0.22 moles, 8.80 grams | [OH-].[Na+]
solvent | ethanol | 250 milliliters | C(C)O | C2H6O
solvent | ethanol | 45 milliliters | C(C)O | C2H6O
solvent | ethanol | 45 milliliters | C(C)O | C2H6O
product | 3-Hydroxy-1,5-dithiacyclooctane | 43% yield | OC1CSCCCSC1 | C6H12OS2
